US07435837B2
Treatment of (±)-1-[2-(benzyloxy)-3-methoxyphenyl]-3-{[tert-butyl(dimethyl)silyl]oxy}propan-2-ol (58.14 g, 0.144 mol) with palladium on carbon (5.81 g, 10 wt. %) generally according to the procedure described for Intermediate 4 provided (±)-2-(3-[tert-butyl(dimethyl)silyl]oxy}-2-hydroxypropyl)-6-methoxyphenol as a crude oil. Treatment of the phenol with triphenylphosphine (44.52 g, 0.170 mol) and diethylazodicarboxylate (29.56 g, 0.170 mol) generally according to the procedure described for Intermediate 5 gave 34.12 g (80%) of (±)-tert-butyl[(7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methoxy]dimethylsilane as a colorless oil. Rf=0.67 (silica, ethyl acetate:hexanes 1:9); Anal. calcd. for C16H26O3Si: C, 65.26; H, 8.90. Found: C, 64.26; H, 9.24.

reactant | (±)-1-[2-(benzyloxy)-3-methoxyphenyl]-3-{[tert-butyl(dimethyl)silyl]oxy}propan-2-ol | 0.144 mol, 58.14 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1OC)CC(CO[Si](C)(C)C(C)(C)C)O | C23H34O4Si
reactant | 6-methoxyphenol | COC1=CC=CC=C1O | C7H8O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 0.170 mol, 44.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.170 mol, 29.56 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
catalyst | palladium on carbon | 5.81 g | [Pd] | Pd
product | (±)-tert-butyl[(7-methoxy-2,3-dihydro-1-benzofuran-2-yl)methoxy]dimethylsilane | 34.12 g, 80% | C(C)(C)(C)[Si](C)(C)OCC1OC2=C(C1)C=CC=C2OC | C16H26O3Si
